US04782050
D. 1-cyclopropylbenzimidazole-2-carboxaldehyde
Selenium dioxide (1.2 g, 0.011 mole) was added to 60 ml of dioxane containing 1.87 g .(0.011 mole) of 1-cyclopropyl-2-methylbenzimidazole and the reaction heated to reflux for 2.5 hours. The reaction was filtered and the filtrate concentrated to a dark oil, 3.0 g. Chromatographing of the residue on silica gel gave 1.18 g of the desired compound.

reactant | Selenium dioxide | 0.011 mole, 1.2 g | [Se](=O)=O | O2Se
reactant | 1-cyclopropyl-2-methylbenzimidazole | 0.011 mole | C1(CC1)N1C(=NC2=C1C=CC=C2)C | C11H12N2
solvent | dioxane | 60 ml, 1.87 g | O1CCOCC1 | C4H8O2
product | 1-cyclopropylbenzimidazole-2-carboxaldehyde | 1.18 g | C1(CC1)N1C(=NC2=C1C=CC=C2)C=O | C11H10N2O
